US03941803
In the manner given in Preparation 11, 2-amino-5-chloro-2',6'-difluorobenzophenone hydrazone is refluxed with potassium hydroxide in diethylene glycol to give 4-chloro-α-(2,6-difluorophenyl)-o-toluidine.

reactant | 2-amino-5-chloro-2',6'-difluorobenzophenone hydrazone | NC1=C(C(C2=C(C=CC=C2F)F)=NN)C=C(C=C1)Cl | C13H10ClF2N3
reactant | potassium hydroxide | [OH-].[K+]
solvent | diethylene glycol | C(COCCO)O | C4H10O3
product | 4-chloro-α-(2,6-difluorophenyl)-o-toluidine | ClC=1C=C(C(N)=CC1)CC1=C(C=CC=C1F)F | C13H10ClF2N
